### PR TITLE
Refactor traces

### PR DESCRIPTION
**Pull request by wkolowski**

### CODE REVIEW

**Comment by palmskog** [comment]
@wkolowski these files use MathComp/SSReflect conventions, because they were originally extracted from a development heavily based on SSReflect. I don't see the value in making idiomatic SSReflect code into some kind of hybrid between SSReflect and other parts of the codebase. SSReflect is a different proof language with its own idioms.

For example, see here: https://github.com/thery/mathcomp-extra/blob/master/aks.v

**Comment by wkolowski** [comment]
@palmskog Do you mean that two-space baseline indentation is unidiomatic in ssreflect? If so, that's my blunder - I thought it's just bad formatting, similar to a few other places in the codebase. My intention with these changes was to fix that formatting (and also formatting of definition, which was very far off from the coding conventions). However, I have also noticed that (according to my not-very-good-ssreflect-skills) the proofs in these files are NOT idiomatic ssreflect, as they make extensive use of `destruct`, `simpl` and other non-ssreflect tactics, so I tried to refactor them to be more idiomatic and less hybrid.

I'm at a loss as to what you meant, can you explain?

**Comment by palmskog** [comment]
@wkolowski I meant that the *formatting* changes (mostly spacing) are counter to the SSReflect idiom. The convention with SSReflect and MathComp is to use indenting sparingly: no default space indenting inside proofs and no default indenting for inductive type constructors and the like (again, see the [file](https://github.com/thery/mathcomp-extra/blob/master/aks.v) I linked). My view is that these files should follow SSReflect indenting, so I won't approve changes that introduce other indenting.

I see now that you also changed the proof scripts. These changes are very difficult to evaluate when you change indenting at the same time, but I have no fundamental objections to proof script changes in these files if they are reasonable. I suggest you refocus the PR to only perform proof script changes without changing formatting/indenting.

**Comment by wkolowski** [comment]
@palmskog Ok then, I will retain the formatting for proofs and `Inductive`s, but will introduce proper 2-space indentation for `Definition`s and `Lemma`s, and I will try to make the proofscripts more idiomatic.

**Comment by wkolowski** [comment]
@palmskog Ok then, I will try to make the proofscripts more idiomatic and leave the formatting changes for later/never.

**Comment by wkolowski** [comment]
@palmskog Ah, I forgot to rebase. Thanks for reminding me!

**Comment by palmskog** [comment]
@wkolowski I rolled back the non-idiomatic changes. If you really insist on avoiding `exact: <coind-constructor> _ _ (CIH _ )`, one compromise I'm fine with is for example: `exact/<coind-constructor>/CIH`, which should still guarantee the coinductive guard condition is fulfilled.

**Review by palmskog — APPROVED** [review]
After some rollbacks, this is now in shape for merging.

File: theories/VLSM/Lib/TraceProperties.v [hunk 1]
```diff
@@ -54,20 +54,19 @@ Lemma infiniteT_trace_append :
 Proof.
 cofix CIH.
 move => tr Htr.
-case => [a|a b tr']; first by rewrite trace_append_nil.
+case => [a | a b tr']; first by rewrite trace_append_nil.
```
[the remark this answers is not in the document]
Comment (wkolowski) [reply theories/VLSM/Lib/TraceProperties.v]: Sorry, I did not know that this is part of ssreflect/MathComp conventions.

**Comment by wkolowski** [comment]
@palmskog Do not merge it yet, I have a few more improvements (hopefully : )) waiting.

**Comment by wkolowski** [comment]
@palmskog I changed my mind, I will use `exact/whatever/CIH/` in the places where it's possible.

File: theories/VLSM/Lib/TraceProperties.v [hunk 2]
```diff
@@ -371,27 +344,37 @@ Local Notation "[| p |]" := (SingletonT p) (at level 80).
...
 
+Lemma dupT_singl :
+  forall (u : propA) a b,
+    u a -> dupT u b (Tcons a b (Tnil a)).
+Proof.
+move => u a b h.
+exists a; split.
+- exact: h.
+- exact: bisim_refl.
+Qed.
```
Comment (palmskog) [inline theories/VLSM/Lib/TraceProperties.v:364]:
```suggestion
Lemma dupT_Tcons : forall (u : propA) a b,
 u a -> dupT u b (Tcons a b (Tnil a)).
Proof.
move => u a b h.
by exists a; split; [apply: h|apply: bisim_refl].
Qed.
```

File: theories/VLSM/Lib/TraceProperties.v [hunk 3]
```diff
@@ -371,27 +344,37 @@ Local Notation "[| p |]" := (SingletonT p) (at level 80).
...
+
 Lemma dupT_cont: forall (u0 u1: propA) b,
  u0 ->> u1 -> forall tr, dupT u0 b tr -> dupT u1 b tr.
 Proof.
-move => u0 u1 b hu tr [a [h0 h1]]. invs h1. invs H1.
-exists a. split; last by apply bisim_refl. exact: hu _ h0.
+move => u0 u1 b hu tr [a [h0 h1]]; invs h1; invs H1.
+exact/dupT_singl/hu.
```
Comment (palmskog) [inline theories/VLSM/Lib/TraceProperties.v:370]:
```suggestion
exact/dupT_Tcons/hu.
```

File: theories/VLSM/Lib/TraceProperties.v [hunk 4]
```diff
@@ -371,27 +344,37 @@ Local Notation "[| p |]" := (SingletonT p) (at level 80).
...
 Qed.
 
 Lemma dupT_setoidT : forall u b, setoidT (dupT u b).
 Proof.
-move => u b tr0 [a [h0 h1]] tr1 h2. invs h1. invs H1. invs h2. invs H3.
-exists a; split => //.
-exact: bisim_refl.
+move => u b tr0 [a [h0 h1]] tr1 h2.
+invs h1; invs H1; invs h2; invs H3.
+exact/dupT_singl.
```
Comment (palmskog) [inline theories/VLSM/Lib/TraceProperties.v:377]:
```suggestion
exact/dupT_Tcons.
```

File: theories/VLSM/Lib/TraceProperties.v [hunk 5]
```diff
@@ -172,19 +157,16 @@ Lemma finiteT_finalTA : forall tr (h : finiteT tr),
...
 
 Lemma finalTA_hd_append_trace : forall tr0 a,
  finalTA tr0 a -> forall tr1, hd tr1 = a ->
  hd (tr0 +++ tr1) = hd tr0.
 Proof.
-refine (fix IH tr a h {struct h} := _).
-case: tr h => [a0|a0 b tr1] Hfin tr2 Hhd; invs Hfin.
-- by rewrite trace_append_nil.
-- by rewrite trace_append_cons.
+move => tr a; elim => {tr a} [a tr <- | a b a' tr Hfinal IH tr'] //=.
```
Comment (palmskog) [inline theories/VLSM/Lib/TraceProperties.v:169]:
```suggestion
by move => tr a; elim => {tr a} [a tr <- | a b a' tr Hfinal IH tr'] //=.
```

File: theories/VLSM/Lib/TraceProperties.v [hunk 6]
```diff
@@ -1112,35 +1083,35 @@ Lemma followsT_dupT : forall u tr b,
...
+  exact: dupT_singl.
+- rewrite [lastdup _ _]trace_destr /=.
+  exact/followsT_delay/CIH.
 Qed.
 
 Lemma finalTA_lastdup : forall tr a b,
  finalTA tr a -> finalTA (lastdup tr b) a.
 Proof.
-induction 1.
+move => tr a b1; elim => {tr a} [a | a1 b2 a2 tr Hfinal IH].
```
Comment (palmskog) [inline theories/VLSM/Lib/TraceProperties.v:1098]:
```suggestion
move => tr a b1; elim => {tr a} [a|a1 b2 a2 tr Hfinal IH].
```

File: theories/VLSM/Lib/TraceProperties.v [hunk 7]
```diff
@@ -623,163 +608,168 @@ Local Infix "***" := AppendT (at level 60, right associativity).
...
 Lemma SingletonT_AppendT: forall v p, ([|v|] *** p) =>> p.
 Proof.
-move => v [p hp] tr0. simpl. move => [tr1 [h0 h1]].
-destruct h0 as [a [h0 h2]]. invs h2. by invs h1.
-Qed.
-
-Lemma ttA_AppendT_implies : forall p, ([|ttA|] *** p) =>> p.
-Proof.
-move => p.
-exact: SingletonT_AppendT.
```
Comment (palmskog) [inline theories/VLSM/Lib/TraceProperties.v:712]: Please add back the lemma. Even though it may be derivable from another lemma, it's not uncommon to state facts that are trivially derivable, if they are are useful and important.

**Review by palmskog — COMMENTED** [review]
I'll approve this PR when my final set of comments here are taken into account.

**Comment by wkolowski** [comment]
@palmskog I have applied your suggestions, you can approve now.

**Review by palmskog — APPROVED** [review]
